US07449481B2
To a mixture of compound PPP, (3-iodo-4-methyl-phenyl)-methanol, (4 g, 16.12 mmol) and phenylboronic acid (2.06 g, 16.89 mmol) in 1-propanol (30 mL) was successively added palladium(II) acetate (0.01276 g, 0.05 mmol), triphenyl phosphine (0.042 g, 0.161 mmol), aq. sodium carbonate solution (2 M, 11.44 mL, 22.88 mmol), and water (6 mL). The mixture was heated to 100° C. until reaction is complete (tlc), cooled, quenched with water (20 mL) and extracted into ethyl acetate (3×50 mL). Combined organic layer was washed with 2% aq. sodium bicarbonate (2×25 mL), brine (1×50 mL), dried (MgSO4) and concentrated to yield 2.82 g of (6-methyl-biphenyl-3-yl)-methanol, compound QQQ, that was directly taken into next step without any further purification; Rt: 10.95 min.

reactant | (3-iodo-4-methyl-phenyl)-methanol | 16.12 mmol, 4 g | IC=1C=C(C=CC1C)CO | C8H9IO
reactant | phenylboronic acid | 16.89 mmol, 2.06 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 22.88 mmol, 2 M, 11.44 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 6 mL | O | H2O
solvent | 1-propanol | 30 mL | C(CC)O | C3H8O
catalyst | palladium(II) acetate | 0.05 mmol, 0.01276 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenyl phosphine | 0.161 mmol, 0.042 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (6-methyl-biphenyl-3-yl)-methanol | 2.82 g | CC1=CC=C(C=C1C1=CC=CC=C1)CO | C14H14O
